US09447109B2
0.69 Kg of asenapine maleate (1.69 moles) with a purity of 98% (HPLC) is loaded into a reactor. Toluene (7.2 L) is added, and the suspension is stirred at 25° C. A 9% solution of sodium bicarbonate (7.2 L) is added by dripping. The solution is left under stirring at 25° C. for 30 minutes. The lower aqueous phase is eliminated. The organic phase is washed with water (2×3.6 L). The solvent is evaporated under vacuum, obtaining asenapine base (0.50 Kg) in the form of oil. 4.6 L of ethanol is added. The solution is stirred, heating to 50° C. An 85% solution of phosphoric acid (0.12 L, 1.69 moles) in ethanol (0.68 L) is dripped into the solution of asenapine base at 50° C. in 10 minutes. The solution is stirred for 30 minutes at 50° C. The solution is cooled to 25° C. in approx. 2 hours. The solution is left under stirring at 25° C. for 2 hours. The product is isolated by filtration, washing with ethanol (0.75 L). The product is dried under vacuum at 25° C. for 20 hours. 0.614 Kg of asenapine phosphate is obtained (yield=94.0%). Purity >99.5% (HPLC).

reactant | asenapine maleate | 1.69 moles, 0.69 Kg | CN1CC2C=3C=CC=CC3OC=4C=CC(=CC4C2C1)Cl.C(=C\C(=O)O)\C(=O)O
reactant | sodium bicarbonate | 7.2 L | C([O-])(O)=O.[Na+]
solvent | Toluene | 7.2 L | C1(=CC=CC=C1)C | C7H8
product | asenapine | 0.50 Kg | CN1CC2C=3C=CC=CC3OC=4C=CC(=CC4C2C1)Cl | C17H16ClNO
